US07030112B2
419A—Preparation of N-hydroxy-morpholine-4-carboxamidine
The title compound was prepared from the reaction of morpholine nitrile and hydroxylamine (equimolar amounts) by a route analogous to that used for the preparation of Example 412A to yield 419A in quantitative yield. 1H NMR (400 MHz, DMSO-d6) δ 8.33 (s, 1H), 5.18 (S, 2H), 3.57 (m, 4H), 2.93 (m, 4H)

reactant | morpholine nitrile | N1(CCOCC1)C#N | C5H8N2O
reactant | hydroxylamine | NO | H3NO
product | N-hydroxy-morpholine-4-carboxamidine | ONC(=N)N1CCOCC1 | C5H11N3O2
